US07399759B2
tert-Butyl 3-[6-(4-oxo-7-trifluoromethyl-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoate
2-Mercapto-4-trifluoromethylbenzoic acid (1.59 g, 7.2 mmol) and tert-butyl 3-(6-cyano-2-pyridyl)propanoate (1.32 g, 5.7 mmol) were dissolved in pyridine (15 ml), and the mixture was refluxed for 15 hrs. The reaction mixture was concentrated under reduced pressure, subjected to a silica gel column chromatography, eluted with hexane-ethyl acetate (3:1, v/v) and recrystallized from ethyl acetate-hexane to give the titled compound (0.85 g, 34%).

reactant | 2-Mercapto-4-trifluoromethylbenzoic acid | 7.2 mmol, 1.59 g | SC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C8H5F3O2S
reactant | tert-butyl 3-(6-cyano-2-pyridyl)propanoate | 5.7 mmol, 1.32 g | C(#N)C1=CC=CC(=N1)CCC(=O)OC(C)(C)C | C13H16N2O2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 3-[6-(4-oxo-7-trifluoromethyl-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoate | 0.85 g, 34% | O=C1N=C(SC2=C1C=CC(=C2)C(F)(F)F)C2=CC=CC(=N2)CCC(=O)OC(C)(C)C | C21H19F3N2O3S
